US07816522B2
(22a) 3,4-dimethoxy-5-triisopropylsilanyloxymethylbenzaldehyde
To a solution of the 3.616 g of (5-bromo-2,3-dimethoxybenzyloxy)triisopropylsilane in 60 ml of THF there was added dropwise 3.6 ml of n-butyllithium (2.66 M, hexane solution) at −78° C. under a nitrogen atmosphere. After stirring for 15 minutes, 2 ml of N-formylmorpholine was added and the mixture was stirred at room temperature for 20 minutes. Next, 1N hydrochloric acid was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (2.605 g) as an oil.

reactant | (5-bromo-2,3-dimethoxybenzyloxy)triisopropylsilane | 3.616 g | BrC=1C=C(C(=C(CO[Si](C(C)C)(C(C)C)C(C)C)C1)OC)OC | C18H31BrO3Si
reactant | n-butyllithium | 2.66 M, 3.6 ml | C(CCC)[Li]
reactant | N-formylmorpholine | 2 ml | C(=O)N1CCOCC1 | C5H9NO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,4-dimethoxy-5-triisopropylsilanyloxymethylbenzaldehyde | 2.605 g | COC=1C=C(C=O)C=C(C1OC)CO[Si](C(C)C)(C(C)C)C(C)C | C19H32O4Si
